2192-12-08 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.        Given 500 cc for tachycardia
   2.        Hct 21 this am.  Rechecked to be 21.
   3.        Written for 1U pRBC and sent for Abdominal CT Scan. JP with
   large blood return.
   Allergies:
   Ceftriaxone
   Rash;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2192-12-7**] 11:00 PM
   Meropenem - [**2192-12-8**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2192-12-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-8**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 104 (98 - 114) bpm
   BP: 122/70(81) {96/59(71) - 129/77(87)} mmHg
   RR: 27 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,398 mL
                                                                  1,569 mL
   PO:
             TF:
                                                                     50 mL
                                                                    455 mL
   IVF:
                                                                  1,762 mL
                                                                    864 mL
   Blood products:
                                                                    586 mL
   Total out:
                                                                  1,680 mL
                                                                  1,940 mL
   Urine:
                                                                    880 mL
                                                                    570 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   70 mL
   Balance:
                                                                    718 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   498 K/uL
   6.8 g/dL
   135 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   16 mg/dL
   98 mEq/L
   129 mEq/L
   21.6 %
   10.2 K/uL
        [image002.jpg]
                            [**2192-12-7**]  06:17 AM
                            [**2192-12-8**]  04:34 AM
                            [**2192-12-8**]  06:00 AM
   WBC
   17.6
   10.2
   Hct
   26.5
   21.7
   21.6
   Plt
   548
   498
   Cr
   0.8
   0.6
   Glucose
   175
   135
   Other labs: PT / PTT / INR:17.7/46.4/1.6, ALT / AST:[**6-21**], Alk Phos / T
   Bili:65/0.3, Differential-Neuts:75.2 %, Lymph:18.4 %, Mono:4.4 %,
   Eos:1.8 %, Albumin:2.1 g/dL, LDH:187 IU/L, Ca++:7.7 mg/dL, Mg++:2.0
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A/P: 55yoM with hx of morbid obesity, DMII, s/p Bilateral Thalamic and
   L Cerebral Peduncle CVAs, R Hemicolectomy for Perforated Cecum, c/b
   intrabdominal abcess now S/P Cardiac Arrest [**3-17**] to acute hypoxic
   respiratory distress and transferred back to ICU from floor with signs
   of sepsis.
    Fevers/Tachypnea/Tachycardia
 Patient initially brought to the CCU
   with fever, tachypnea and tachycardia thought to be due to worsening
   abdominal abscess.  Other considerations include ventral wound,
   pneumonia, or UTI.  Ventral wound looks clean and ostomy appears
   noninfected.  He is not coughing to suggest pneumonia.  His urine
   appears cloudy.  ThepPatient s/p RLQ phelgmon IR guided drainage POD 0
   with JP drain in place.  Patient currently hemodynamically stable on
   maintainence fluids and broad spectrum antibiotics.
   - Maintain Linezolid/meropenem which would cover the majority of
   organisms.
   - Surgery following, appreciate recs
   - Control fever with tylenol and ibuprofen
   - Blood cultures sent on [**2192-12-7**].  UCx also sent on [**2192-12-7**]
   - Continue Linezolid (Day 1: [**2192-11-23**] ) s/p pigtail removal [**12-2**],
   Meropenem (Day 1:[**2192-12-3**])
   Blood Loss: Decreased Hct to 21 from 26 this am.  Repeat check was
   consistent with 21.  Patient given 1U pRBC and sent for noncontrast CT
   Abdomen.  Patient hemodynamically stable
   -  Hold heparin gtt at this time
   -  F/U CT Abdomen
   -  q8h Hct
   -  Follow drainage output
   UTI: [**11-21**] growing VRE. Most recent Ucx [**11-23**] showed yeast - repeating
   urine culture. foley changed [**12-2**] - still growing yeast.
   - On Linezolid and Meropenem
   - Will resend UA/Ucx on [**2192-12-7**]
    Sacral Decub/Sacral osteo - ID recs to tx as osteomyeltis. Plastic
   surgery debrided [**12-2**]. Growing E.coli and VRE.
   - continue wound care, abx
    Intra-abdominal Abcess s/p R hemicolectomy: Culture + VRE. Per ID to
   tx with linezolid x14d post removal of intra-abd pigtail.
   -Con't Linezolid/[**Last Name (un) **]  \
   - Appreciate ID recs
   Thalamic pain syndrome s/p stroke
   - will ask Neuro if any recs to help with the pain.
   SMV thrombosis: Hem/Onc consult previously during this admission:
   factor V leiden (-) and prothrombin mutation (-). Other workup to be
   done as outpt since protein C and S may be falsely lowered in setting
   of an acute clot. Also Lupus anticoagulant, anticardiolipin as outpt.
   INR 1.8 today. Heparin ggt held at 6 am, INR remains 1.8 following 10
   mg vitamin K.
   - Hold heparin gtt in setting of bleed; will restart pending read of CT
   Abdomen
   - Continue pneumoboots at this time
   Chronic Anemia- Iron studies c/w ACD (ferritin 801, iron 15). Pt had
   prior transufion with Hct 20s, Pt's Hct 26.5 upon transfer from CCU to
   ICU
   - f/u G6PD
   AMS- Neuro does not believe has anoxic brain injury [**3-17**] cardiac arrest.
   Instead pt's delerium [**3-17**] infections and hospital setting likely bring
   out the cognitive defects associated with his thalamic stroke.
   - eye glasses and eye patch to reduce delerium
   MRSA tracheobronchitis: initially tx as MRSA HAP from [**11-21**] cx given
   fevers and increased sputum with vanco/levaquin, but CXR w/o supporting
   evidence. On linezolid as above.
   Ventral wound- had contaminating stool from ostomy - now sealed
   properly, now intact with good granulation.
   DMII: Currently stable, Continue Lantus to 38u [**Hospital1 **]
   - [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] rec
   FEN: KVO/Replete PRN/ NPO, NS@100, fiberoptic swallow study tomorrow,
   discussing PEG with family
   Access: PICC in place
   PPx: Pneumoboots, ppi, Heparin gtt
   Full Code
   Communication: Sister [**Name (NI) 3373**], Daughter
   Dispo: pending IR drainage
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-12-7**] 11:00 PM 90 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-12-6**] 08:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-12-08 11:07:00 Physician Attending Progress Note
Chief Complaint: CVA, Sacral Decub with Cellulitis, Sepsis, Abdominal
   phlegmon s/p IR drainage, MRSA tracheobronchitis, SMV thrombus
   HPI:
   55M with recent CVA, subsequent bowel perf s/pcolectomy c/b intrabd
   abscess.  Had a drain in place but taken out 1 week ago.  Yest febrile,
   tachy.  Rpt abd imaging showed increasing abscess/fluid collection so
   going back for drain today.  Abx, not requirign pressors but remains
   tachy.
   24 Hour Events:
 PERCUTANEOUS DRAIN INSERTION - At [**2192-12-7**] 03:15 PM
   abd pig tail placed in ct
   -Gave fluid bolus 500cc for tachycardia
   -Had hct drop 26 to 21, gave 1U PRBCS
   -sent for CT abd/pelvis this am
   Allergies:
   Ceftriaxone
   Rash;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2192-12-7**] 11:00 PM
   Meropenem - [**2192-12-8**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-8**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 102 (98 - 114) bpm
   BP: 118/61(75) {96/59(71) - 129/77(85)} mmHg
   RR: 23 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
          Total In:
                                                                  2,398 mL
                                                                  1,996 mL
   PO:
          TF:
                                                                     50 mL
                                                                    475 mL
   IVF:
                                                                  1,762 mL
                                                                    896 mL
   Blood products:
                                                                    586 mL
                                                                    375 mL
   Total out:
                                                                  1,680 mL
                                                                  2,105 mL
   Urine:
                                                                    880 mL
                                                                    735 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   70 mL
   Balance:
                                                                    718 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: disconjugate, L ptosis
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, Dobhoff
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: diffusely tender but greatest in LLQ and
   periumbilical, stoma draining green stool, RLQ IR drain draining blood,
   open midline abd wound packed
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, date, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   498 K/uL
   135 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   16 mg/dL
   98 mEq/L
   129 mEq/L
   21.6 %
   10.2 K/uL
        [image002.jpg]
                            [**2192-12-7**]  06:17 AM
                            [**2192-12-8**]  04:34 AM
                            [**2192-12-8**]  06:00 AM
   WBC
   17.6
   10.2
   Hct
   26.5
   21.7
   21.6
   Plt
   548
   498
   Cr
   0.8
   0.6
   Glucose
   175
   135
   Other labs: PT / PTT / INR:17.7/46.4/1.6, ALT / AST:[**6-21**], Alk Phos / T
   Bili:65/0.3, Differential-Neuts:75.2 %, Lymph:18.4 %, Mono:4.4 %,
   Eos:1.8 %, Albumin:2.1 g/dL, LDH:187 IU/L, Ca++:7.7 mg/dL, Mg++:2.0
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Acute blood loss anemia: possible post procedure bleed
   -transfuse to Hb >7 or active bleeding
   -f/u CT abd for evidence of post procedure bleed
   -holding heparin for now, if no bleed on CT restart without a bolus
   Sepsis: possible sources include MRSA PNA, Abdominal phlegmen, UTI,
   sacral decub
   -BP improved with fluid
   -meropenem, linezolid
 .H/O DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
   -multiple debridements, growing VRE and E coli
   -cont. meropenem and linezolid, followed by ID
   -f/u abscess fungal cx
   Abdominal Phlegmon
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   -just heparin, suspect embolic
   -neuro following
 .H/O CARDIAC ARREST, VT during intubation, high risk for CAD
   -on ASA
   -consider restarting when bleeding resolved
   DM2: [**Last Name (un) 276**] following
   -lantus and sliding scale
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
   -ask him or family if supposed to be on CPAP at night
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -oxycodone and tylenol prn
   Nutrition: Restarted on TF
   Ppx: heparin gtt, pneumoboots, PPI
   Full Code
   Access: L PICC
   Dispo: When bleeding resolved, consider tx to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2192-12-6**] 08:20 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2192-12-8**] 16:31 ------

2192-12-09 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.Hct dropped, 25->21, got one unit ->23, dropped again to 20.0, got
   another unit
   [**Unit Number **].RLQ fluid collection more uniform, possibly hemorrhage
   3.holding heparin in setting of bleeding.
   Allergies:
   Ceftriaxone
   Rash;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2192-12-8**] 08:05 PM
   Meropenem - [**2192-12-8**] 11:40 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-9**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 100 (86 - 108) bpm
   BP: 117/64(77) {100/56(68) - 136/90(94)} mmHg
   RR: 28 (18 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,500 mL
                                                                  1,165 mL
   PO:
             TF:
                                                                  1,449 mL
                                                                    572 mL
   IVF:
                                                                  1,931 mL
                                                                     63 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  4,867 mL
                                                                  1,020 mL
   Urine:
                                                                  1,527 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
                                                                     90 mL
   Balance:
                                                                    633 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   374 K/uL
   6.8 g/dL
   108 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   15 mg/dL
   102 mEq/L
   135 mEq/L
   21.1 %
   5.7 K/uL
        [image002.jpg]
                            [**2192-12-7**]  06:17 AM
                            [**2192-12-8**]  04:34 AM
                            [**2192-12-8**]  06:00 AM
                            [**2192-12-8**]  01:06 PM
                            [**2192-12-8**]  08:07 PM
                            [**2192-12-9**]  01:45 AM
                            [**2192-12-9**]  04:12 AM
   WBC
   17.6
   10.2
   5.7
   Hct
   26.5
   21.7
   21.6
   23.2
   20.7
   23.1
   21.1
   Plt
   548
   498
   374
   Cr
   0.8
   0.6
   0.5
   Glucose
   175
   135
   108
   Other labs: PT / PTT / INR:16.1/32.2/1.4, ALT / AST:[**6-21**], Alk Phos / T
   Bili:65/0.1, Differential-Neuts:75.2 %, Lymph:18.4 %, Mono:4.4 %,
   Eos:1.8 %, Albumin:2.1 g/dL, LDH:189 IU/L, Ca++:7.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
 .H/O DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 .H/O CARDIAC ARREST
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Assessment and Plan
   A/P: 55yoM with hx of morbid obesity, DMII, s/p Bilateral Thalamic and
   L Cerebral Peduncle CVAs, R Hemicolectomy for Perforated Cecum, c/b
   intrabdominal abcess now S/P Cardiac Arrest [**3-17**] to acute hypoxic
   respiratory distress and transferred back to ICU from floor with signs
   of sepsis.
    Fevers/Tachypnea/Tachycardia
 Patient initially brought to the CCU
   with fever, tachypnea and tachycardia thought to be due to worsening
   abdominal abscess.  Other considerations include ventral wound,
   pneumonia, or UTI.  Ventral wound looks clean and ostomy appears
   noninfected.  He is not coughing to suggest pneumonia.  His urine
   appears cloudy.  ThepPatient s/p RLQ phelgmon IR guided drainage POD 0
   with JP drain in place.  Patient currently hemodynamically stable on
   maintainence fluids and broad spectrum antibiotics.
   - Maintain Linezolid/meropenem which would cover the majority of
   organisms.
   - Surgery following, appreciate recs
   - Control fever with tylenol and ibuprofen
   - Blood cultures sent on [**2192-12-7**].  UCx also sent on [**2192-12-7**]
   - Continue Linezolid (Day 1: [**2192-11-23**] ) s/p pigtail removal [**12-2**],
   Meropenem (Day 1:[**2192-12-3**])
   Blood Loss: Decreased Hct to 21 from 26 this am.  Repeat check was
   consistent with 21.  Patient given 1U pRBC and sent for noncontrast CT
   Abdomen.  Patient hemodynamically stable
   -  Hold heparin gtt at this time
   -  F/U CT Abdomen
   -  q8h Hct
   -  Follow drainage output
   UTI: [**11-21**] growing VRE. Most recent Ucx [**11-23**] showed yeast - repeating
   urine culture. foley changed [**12-2**] - still growing yeast.
   - On Linezolid and Meropenem
   - Will resend UA/Ucx on [**2192-12-7**]
    Sacral Decub/Sacral osteo - ID recs to tx as osteomyeltis. Plastic
   surgery debrided [**12-2**]. Growing E.coli and VRE.
   - continue wound care, abx
    Intra-abdominal Abcess s/p R hemicolectomy: Culture + VRE. Per ID to
   tx with linezolid x14d post removal of intra-abd pigtail.
   -Con't Linezolid/[**Last Name (un) **]  \
   - Appreciate ID recs
   Thalamic pain syndrome s/p stroke
   - will ask Neuro if any recs to help with the pain.
   SMV thrombosis: Hem/Onc consult previously during this admission:
   factor V leiden (-) and prothrombin mutation (-). Other workup to be
   done as outpt since protein C and S may be falsely lowered in setting
   of an acute clot. Also Lupus anticoagulant, anticardiolipin as outpt.
   INR 1.8 today. Heparin ggt held at 6 am, INR remains 1.8 following 10
   mg vitamin K.
   - Hold heparin gtt in setting of bleed; will restart pending read of CT
   Abdomen
   - Continue pneumoboots at this time
   Chronic Anemia- Iron studies c/w ACD (ferritin 801, iron 15). Pt had
   prior transufion with Hct 20s, Pt's Hct 26.5 upon transfer from CCU to
   ICU
   - f/u G6PD
   AMS- Neuro does not believe has anoxic brain injury [**3-17**] cardiac arrest.
   Instead pt's delerium [**3-17**] infections and hospital setting likely bring
   out the cognitive defects associated with his thalamic stroke.
   - eye glasses and eye patch to reduce delerium
   MRSA tracheobronchitis: initially tx as MRSA HAP from [**11-21**] cx given
   fevers and increased sputum with vanco/levaquin, but CXR w/o supporting
   evidence. On linezolid as above.
   Ventral wound- had contaminating stool from ostomy - now sealed
   properly, now intact with good granulation.
   DMII: Currently stable, Continue Lantus to 38u [**Hospital1 **]
   - [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] rec
   FEN: KVO/Replete PRN/ NPO, NS@100, fiberoptic swallow study tomorrow,
   discussing PEG with family
   Access: PICC in place
   PPx: Pneumoboots, ppi, Heparin gtt
   Full Code
   Communication: Sister [**Name (NI) 3373**], Daughter
   Dispo: pending IR drainage
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-12-7**] 11:00 PM 90 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-12-6**] 08:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-12-9**] 05:26 AM 90 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-12-6**] 08:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-12-09 13:22:00 Physician Attending Progress Note
Chief Complaint: Sacral Decub, Sepsis, Intraabdominal Abscess, Acute
   Blood Loss Anemia, Respiratory Failure, SMV thrombosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55M with recent CVA, subsequent bowel perf s/pcolectomy c/b intrabd
   abscess.  had a drain in place but taken out 1 week ago.  Yest febrile,
   tachy.  Rpt abd imaging showed increasing abscess/fluid collection so
   went for another IR guided drain with scant bloody fluid draining. Hct
   dropped yesterday, repeat CT showed no clear acute bleed.
   24 Hour Events:
   -got 2U PRBCs and didn't bump to that, hct 20
   -sent for repeat CT this am to r/o bleed again, read pending, still
   holding heparin
   Allergies:
   Ceftriaxone
   Rash;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2192-12-9**] 09:54 AM
   Meropenem - [**2192-12-9**] 11:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-9**] 01:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 92 (86 - 108) bpm
   BP: 127/67(81) {100/56(68) - 136/90(94)} mmHg
   RR: 23 (20 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
          Total In:
                                                                  5,488 mL
                                                                  3,000 mL
   PO:
          TF:
                                                                  1,449 mL
                                                                  1,022 mL
   IVF:
                                                                  1,931 mL
                                                                    513 mL
   Blood products:
                                                                    738 mL
                                                                    375 mL
   Total out:
                                                                  4,867 mL
                                                                  2,125 mL
   Urine:
                                                                  1,527 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
                                                                     90 mL
                                                                     15 mL
   Balance:
                                                                    621 mL
                                                                    875 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: slight diffuse tenderness, no guarding/rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   374 K/uL
   108 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   15 mg/dL
   102 mEq/L
   135 mEq/L
   24.0 %
   5.7 K/uL
        [image002.jpg]
                            [**2192-12-7**]  06:17 AM
                            [**2192-12-8**]  04:34 AM
                            [**2192-12-8**]  06:00 AM
                            [**2192-12-8**]  01:06 PM
                            [**2192-12-8**]  08:07 PM
                            [**2192-12-9**]  01:45 AM
                            [**2192-12-9**]  04:12 AM
                            [**2192-12-9**]  09:22 AM
   WBC
   17.6
   10.2
   5.7
   Hct
   26.5
   21.7
   21.6
   23.2
   20.7
   23.1
   21.1
   24.0
   Plt
   548
   498
   374
   Cr
   0.8
   0.6
   0.5
   Glucose
   175
   135
   108
   Other labs: PT / PTT / INR:16.1/32.2/1.4, ALT / AST:[**6-21**], Alk Phos / T
   Bili:65/0.1, Differential-Neuts:75.2 %, Lymph:18.4 %, Mono:4.4 %,
   Eos:1.8 %, Albumin:2.1 g/dL, LDH:189 IU/L, Ca++:7.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   -f/u final read on CT, no obvious new bleed, goal hct >21, q6h hct
   -hold heparin for now, no hemolysis
   -f/u G6PD
 DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
   -plastic surgery following, cx growing E. coli and VRE
   -will need a flap at some point
   VRE UTI: on linezolid
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   -holding heparin
   SMV thrombosis: Holding heparin
   -will need f/u
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   -likely secondary to infection (possibly PNA, sacral decub, abd
   phlegmon, ventral wound)
   -ID following
   -linezolid and meropenem
   -f/u cultures
   DM2: stable on lantus and SSI
   -[**Last Name (un) 276**] following
 OBSTRUCTIVE SLEEP APNEA (OSA)
   -diagnosed here, had been intermittently on CPAP was held for concern
   of aspiration
   ppx: pneumoboots, PPI
   Full COde
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2192-12-6**] 08:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2192-12-9**] 15:21 ------

2192-12-10 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1. Restarted heparin
   2. HCT stable without further transfusion 24-->27
   3. CT abd yest am without significant change, still could contain blood
   4. SOB overnight, gave lasix 40mg IV x1. ECG unchanged
   Allergies:
   Ceftriaxone
   Rash;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2192-12-9**] 08:20 PM
   Meropenem - [**2192-12-9**] 11:53 PM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2192-12-10**] 02:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-10**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 107 (87 - 110) bpm
   BP: 133/84(92) {121/67(80) - 153/87(100)} mmHg
   RR: 28 (16 - 30) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,400 mL
                                                                  1,080 mL
   PO:
             TF:
                                                                  2,037 mL
                                                                    644 mL
   IVF:
                                                                  1,088 mL
                                                                    186 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  4,495 mL
                                                                  2,830 mL
   Urine:
                                                                  2,480 mL
                                                                  2,130 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
   Balance:
                                                                    905 mL
                                                                 -1,750 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   460 K/uL
   8.5 g/dL
   108 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   15 mg/dL
   102 mEq/L
   135 mEq/L
   26.8 %
   6.8 K/uL
        [image002.jpg]
                            [**2192-12-8**]  06:00 AM
                            [**2192-12-8**]  01:06 PM
                            [**2192-12-8**]  08:07 PM
                            [**2192-12-9**]  01:45 AM
                            [**2192-12-9**]  04:12 AM
                            [**2192-12-9**]  09:22 AM
                            [**2192-12-9**]  03:19 PM
                            [**2192-12-9**]  10:07 PM
                            [**2192-12-10**]  04:13 AM
                            [**2192-12-10**]  06:14 AM
   WBC
   5.7
   6.8
   Hct
   21.6
   23.2
   20.7
   23.1
   21.1
   24.0
   25.4
   24.8
   27.3
   26.8
   Plt
   374
   460
   Cr
   0.5
   Glucose
   108
   Other labs: PT / PTT / INR:16.1/37.2/1.4, ALT / AST:[**6-21**], Alk Phos / T
   Bili:65/0.1, Differential-Neuts:75.2 %, Lymph:18.4 %, Mono:4.4 %,
   Eos:1.8 %, Albumin:2.1 g/dL, LDH:189 IU/L, Ca++:7.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P: 55yoM with hx of morbid obesity, DMII, s/p Bilateral Thalamic and
   L Cerebral Peduncle CVAs, R Hemicolectomy for Perforated Cecum, c/b
   intrabdominal abcess  s/p IR guided drainage of phlegmon with
   persistent anemia.
   #Fevers/Tachypnea/Tachycardia
 Patient initially brought to the CCU
   with fever, tachypnea and tachycardia thought to be due to worsening
   abdominal abscess.  Other considerations include ventral wound,
   pneumonia, or UTI.  Ventral wound looks clean and ostomy appears
   noninfected.  He is not coughing to suggest pneumonia.  His urine
   appears cloudy.  ThepPatient s/p RLQ phelgmon IR guided drainage POD 0
   with JP drain in place.  Patient currently hemodynamically stable on
   maintainence fluids and broad spectrum antibiotics.
   - Maintain Linezolid/meropenem which would cover the majority of
   organisms.
   - Surgery following, appreciate recs
   - Control fever with tylenol and ibuprofen
   - Blood cultures sent on [**2192-12-7**].  UCx also sent on [**2192-12-7**]
   - Continue Linezolid (Day 1: [**2192-11-23**] ) s/p pigtail removal [**12-2**],
   Meropenem (Day 1:[**2192-12-3**])
   #Blood Loss: patient continues to be unable to maintain her
   hematocrit.  Has had 4 units of blood over past two days. Also with
   history of anemia of chronic disease.  JP drain with 15cc of bloody
   drainage overnight, ostomy without gross blood.   Had follow-up
   abdominal CT today.
   -  Heparin restarted as Hct has been stable
   -  F/U CT Abdomen
 no change from prior
   -  q8h Hct
 stable at this point
   -  Drainage from JP has decreased and patient with
   #UTI: [**11-21**] growing VRE. Most recent Ucx [**11-23**] showed yeast - repeating
   urine culture. foley changed [**12-2**] - still growing yeast.
   - On Linezolid and Meropenem
   - Will resend UA/Ucx on [**2192-12-7**]
   # Sacral Decub/Sacral osteo - ID recs to tx as osteomyeltis. Plastic
   surgery debrided [**12-2**]. Growing E.coli and VRE.
   - continue wound care, abx
   # Intra-abdominal Abcess s/p R hemicolectomy: Culture + VRE. Per ID to
   tx with linezolid x14d post removal of intra-abd pigtail.
   -Con't Linezolid/[**Last Name (un) **]  \
   - Appreciate ID recs
   #Thalamic pain syndrome s/p stroke
   - will ask Neuro if any recs to help with the pain.
   #SMV thrombosis: Hem/Onc consult previously during this admission:
   factor V leiden (-) and prothrombin mutation (-). Other workup to be
   done as outpt since protein C and S may be falsely lowered in setting
   of an acute clot. Also Lupus anticoagulant, anticardiolipin as outpt.
   INR 1.8 today. Heparin ggt held at 6 am, INR remains 1.8 following 10
   mg vitamin K.
   - CT abdomen and Hct have been stable.  Given risk of clots, will
   restart heparin gtt and follow Hcts
   - Continue pneumoboots at this time
   #Chronic Anemia- Iron studies c/w ACD (ferritin 801, iron 15). Pt had
   prior transufion with Hct 20s, Pt's Hct 26.5 upon transfer from CCU to
   ICU
   - f/u G6PD
   #AMS- Neuro does not believe has anoxic brain injury [**3-17**] cardiac
   arrest. Instead pt's delerium [**3-17**] infections and hospital setting
   likely bring out the cognitive defects associated with his thalamic
   stroke.
   - eye glasses and eye patch to reduce delerium
   #MRSA tracheobronchitis: initially tx as MRSA HAP from [**11-21**] cx given
   fevers and increased sputum with vanco/levaquin, but CXR w/o supporting
   evidence. On linezolid as above.
   #Ventral wound- had contaminating stool from ostomy - now sealed
   properly, now intact with good granulation.
    #DMII: Currently stable, Continue Lantus to 38u [**Hospital1 **]
   - [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] rec
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-12-10**] 05:00 AM 90 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-12-6**] 08:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-12-11 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hct @ 1500: 26
   As ID re: fungal coverage  - has not happened.
   2100 Hct: 26.6
   hemodynamically stable
   Allergies:
   Ceftriaxone
   Rash;
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2192-12-10**] 07:37 PM
   Meropenem - [**2192-12-11**] 06:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-12-11**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 98 (90 - 104) bpm
   BP: 110/70(79) {103/66(74) - 142/86(94)} mmHg
   RR: 27 (8 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,134 mL
                                                                  1,513 mL
   PO:
             TF:
                                                                  2,180 mL
                                                                    682 mL
   IVF:
                                                                  1,543 mL
                                                                    461 mL
   Blood products:
   Total out:
                                                                  5,595 mL
                                                                  1,270 mL
   Urine:
                                                                  4,395 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   10 mL
   Balance:
                                                                   -461 mL
                                                                    243 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   496 K/uL
   8.4 g/dL
   129 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   13 mg/dL
   99 mEq/L
   133 mEq/L
   25.6 %
   6.1 K/uL
        [image002.jpg]
                            [**2192-12-9**]  04:12 AM
                            [**2192-12-9**]  09:22 AM
                            [**2192-12-9**]  03:19 PM
                            [**2192-12-9**]  10:07 PM
                            [**2192-12-10**]  04:13 AM
                            [**2192-12-10**]  06:14 AM
                            [**2192-12-10**]  09:28 AM
                            [**2192-12-10**]  02:56 PM
                            [**2192-12-10**]  09:05 PM
                            [**2192-12-11**]  02:40 AM
   WBC
   5.7
   6.8
   7.3
   6.1
   Hct
   21.1
   24.0
   25.4
   24.8
   27.3
   26.8
   25.2
   25.6
   26.6
   25.6
   Plt
   374
   460
   487
   496
   Cr
   0.5
   0.6
   0.5
   Glucose
   108
   238
   129
   Other labs: PT / PTT / INR:15.1/66.1/1.3, ALT / AST:[**9-25**], Alk Phos / T
   Bili:74/0.1, Differential-Neuts:75.2 %, Lymph:18.4 %, Mono:4.4 %,
   Eos:1.8 %, Lactic Acid:1.8 mmol/L, Albumin:2.1 g/dL, LDH:161 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   A/P: 55yoM with hx of morbid obesity, DMII, s/p Bilateral Thalamic and
   L Cerebral Peduncle CVAs, R Hemicolectomy for Perforated Cecum, c/b
   intrabdominal abcess  s/p IR guided drainage of phlegmon with
   persistent anemia.
   #Fevers/Tachypnea/Tachycardia
 Patient initially brought to the CCU
   with fever, tachypnea and tachycardia thought to be due to worsening
   abdominal abscess.  Other considerations include ventral wound,
   pneumonia, or UTI.  Ventral wound looks clean and ostomy appears
   noninfected.  He is not coughing to suggest pneumonia.  His urine
   appears cloudy.  ThepPatient s/p RLQ phelgmon IR guided drainage POD 0
   with JP drain in place.  Patient  hemodynamically stable since
   admission to ICU on maintainence fluids and broad spectrum antibiotics.
   -ID recs
   - Maintain Linezolid/meropenem which would cover the majority of
   organisms.
   - Surgery following, appreciate recs
   - Control fever with tylenol and ibuprofen
   - f/u cultures.
   - Continue Linezolid (Day 1: [**2192-11-23**] ) s/p pigtail removal [**12-2**],
   Meropenem (Day 1:[**2192-12-3**])
   #Blood Loss: patient.  Has had 4 units of blood from [**12-8**] throughg
   [**12-9**]. Abdominal CT
s have not shown source of bleeding.  Hct has been
   stable at 25.0 [**12-10**] and [**12-11**]..  JP drain with scant bloody drainage.
   ostomy without gross blood.
   -  Heparin restarted for SMV thrombosis as Hct has been stable
   -  Hct [**Hospital1 **], transfuse for hct under 21.0
   #UTI: [**11-21**] growing VRE. Most recent Ucx [**11-23**] showed yeast - repeating
   urine culture. foley changed [**12-2**] - still growing yeast.
   -started fluconazole [**12-11**] for yeasturia
   - On Linezolid and Meropenem
   - Will resend UA/Ucx on [**2192-12-7**]
   # Sacral Decub/Sacral osteo - ID recs to tx as osteomyeltis. Plastic
   surgery debrided [**12-2**]. Growing E.coli and VRE.
   -          continue wound care, abx
   -          -ID recs
   -          -plastics recs
    # Intra-abdominal Abcess s/p R hemicolectomy: Culture + VRE. Per ID to
   tx with linezolid x14d post removal of intra-abd pigtail.
   -Con't Linezolid/[**Last Name (un) **]  \
   - Appreciate ID recs
   #Thalamic pain syndrome s/p stroke
   -          will ask Neuro if any recs to help with the pain.
   -          IV fentanyl
   #SMV thrombosis: Hem/Onc consult previously during this admission:
   factor V leiden (-) and prothrombin mutation (-). Other workup to be
   done as outpt since protein C and S may be falsely lowered in setting
   of an acute clot. Also Lupus anticoagulant, anticardiolipin as outpt.
   INR 1.8 today. Heparin ggt held at 6 am, INR remains 1.8 following 10
   mg vitamin K.
   - CT abdomen and Hct have been stable.  Given risk of clots, will
   restart heparin gtt [**12-10**] and follow Hcts
   - Continue pneumoboots at this time
    #Chronic Anemia- Iron studies c/w ACD (ferritin 801, iron 15). Pt had
   prior transufion with Hct 20s, Pt's Hct 26.5 upon transfer from CCU to
   ICU
   - f/u G6PD
   #AMS- Neuro does not believe has anoxic brain injury [**3-17**] cardiac
   arrest. Instead pt's delerium [**3-17**] infections and hospital setting
   likely bring out the cognitive defects associated with his thalamic
   stroke.
   - eye glasses and eye patch to reduce delerium
    #MRSA tracheobronchitis: initially tx as MRSA HAP from [**11-21**] cx given
   fevers and increased sputum with vanco/levaquin, but CXR w/o supporting
   evidence. On linezolid as above.
   #Ventral wound- had contaminating stool from ostomy - now sealed
   properly, now intact with good granulation.
    #DMII: Currently stable, Continue Lantus to 38u [**Hospital1 **]
   - [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] rec
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-12-11**] 02:59 AM 90 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-12-6**] 08:20 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: